US04165377
To a solution of 2-guanidino-4-(4-aminobutyl)thiazole (0.426 g.) in ethanol (10 ml.) was added 2-methyl-1-nitroisothiourea (0.270 g.). The mixture was heated under reflux for 4 hours, allowed to cool to room temperature, evaporated to dryness and the residue triturated with alcohol. The product was filtered off and dried to give 2-guanidino-4-[4-(2-nitroguanidino)butyl]thiazole, m.p. 180°-181° C.

reactant | 2-guanidino-4-(4-aminobutyl)thiazole | 0.426 g | N(C(=N)N)C=1SC=C(N1)CCCCN | C8H15N5S
reactant | 2-methyl-1-nitroisothiourea | 0.270 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-guanidino-4-[4-(2-nitroguanidino)butyl]thiazole | N(C(=N)N)C=1SC=C(N1)CCCCNC(=N[N+](=O)[O-])N | C9H16N8O2S
